US04581369
To a suspension of 13 g of sodium hydride (60% dispersion in mineral oil) in 240 ml of dimethylformamide is added 20 g of imidazole over a 15 minute period under occasional ice cooling. After the mixture is stirred at room temperature for an hour, 60 g of 2-chloro-5-(4-chlorobenzoyl)pyridine is added. The whole mixture is heated to 35° C. and an exothermic reaction starts. When the temperature rises at 60° C., the mixture is ice-cooled and then stirred at room temperature for an hour. The reaction mixture is poured into ice-cold water, the crystals precipitated are filtered off and recrystallized from ethanol to give 58 g of 5-(4-chlorobenzoyl)-2-(1-imidazolyl)pyridine as white crystals, melting at 155°-156° C.

reactant | sodium hydride | 13 g | [H-].[Na+]
reactant | imidazole | 20 g | N1C=NC=C1 | C3H4N2
reactant | 2-chloro-5-(4-chlorobenzoyl)pyridine | 60 g | ClC1=NC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O | C12H7Cl2NO
solvent | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
product | 5-(4-chlorobenzoyl)-2-(1-imidazolyl)pyridine | 58 g | ClC1=CC=C(C(=O)C=2C=CC(=NC2)N2C=NC=C2)C=C1 | C15H10ClN3O
